US06727264B1
N-{4-[1-(3,3-DIPHENYLPROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure O and Scheme W using 3,3-diphenyl-1-propanol and N-[4-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 427.0 (M+H)+.

reactant | 3,3-diphenyl-1-propanol | C1(=CC=CC=C1)C(CCO)C1=CC=CC=C1 | C15H16O
reactant | N-[4-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C1=CC=C(C=C1)NC(CC)=O | C14H20N2O
product | N-{4-[1-(3,3-DIPHENYLPROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | C1(=CC=CC=C1)C(CCN1CCC(CC1)C1=CC=C(C=C1)NC(CC)=O)C1=CC=CC=C1 | C29H34N2O
